*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXF2R5ARA331MF46G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXF2R5ARA331MF46G_20deg-C 1 2

C1 4 2 2.80e-04
C2 5 2 2.86e-05
C3 6 2 1.60e-05
R1 3 4 1.12e-02
R2 4 5 1.66e-01
R3 5 6 1.74e+00
L1 1 3 2.40e-09

.ENDS
*$
